US05061706
To 50 ml ice-cooled 100% nitric acid was added gradually 2.0 g (8.2 mmol) 4-ethoxalylaminophthalonitrile. Stirring was continued at 25° C. for 48 h. The reaction mixture was poured into 300 ml ice-water to give 1.6 g crude product. Column chromatography (200 g kiselgel; eluents: toluene containing ethyl acetate) gave 0.7 g (30%) 4-ethoxalylamino-5-nitrophthalonitrile. M.p. 140°-141° C. 1H-NMR (DMSO-d6): 11.7 (1H, s), 8.97 (1H, s), 8.70 (1H, s), 4.4 (2H, q), 1.4 (3H, t), and 0.75 g (32%) 4-ethoxalylamino-3-nitrophthalonitrile. M.p. 140-141° C. 1H-NMR (DMSO-d6) 11.7 (1H, s), 8.4 (2H, dd, J=9Hz), 4,4 (2H, q), 1.4 (3H, t).

reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | 4-ethoxalylaminophthalonitrile | 8.2 mmol, 2.0 g | C(=O)(C(=O)OCC)NC=1C=C(C(C#N)=CC1)C#N | C12H9N3O3
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-ethoxalylamino-5-nitrophthalonitrile | 0.7 g, 30% | C(=O)(C(=O)OCC)NC=1C=C(C(C#N)=CC1[N+](=O)[O-])C#N | C12H8N4O5
